US06028195
Ethyl 2-({[4-(3,5-dimethoxyphenyl)piperazino]carbonyl}-2-methoxy-4,5-dimethylanilino)acetate
1-[(4,5-Dimethyl-2-methoxyphenyl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine(0.2 g, 0.5 mmol) was dissolved in dimethylformamide(15 ml), sodium hydride(18.5 mg, 0.5 mmol) was added thereto, and the resulting mixture was stirred at room temperature. Then, ethyl bromoacetate(83.5 mg, 0.5 mmol) was added thereto and the resulting mixture was stirred for 3 hours, concentrated under the reduced pressure to remove the used solvent and purified by column chromatography(ethylacetate:hexane=1:2) to obtain the titled compound.

reactant | 1-[(4,5-Dimethyl-2-methoxyphenyl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 0.5 mmol, 0.2 g | CC1=CC(=C(C=C1C)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)OC | C22H29N3O4
reactant | sodium hydride | 0.5 mmol, 18.5 mg | [H-].[Na+]
reactant | ethyl bromoacetate | 0.5 mmol, 83.5 mg | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-({[4-(3,5-dimethoxyphenyl)piperazino]carbonyl}-2-methoxy-4,5-dimethylanilino)acetate | yield: 79% | COC=1C=C(C=C(C1)OC)N1CCN(CC1)C(=O)N(C1=C(C=C(C(=C1)C)C)OC)CC(=O)OCC | C26H35N3O6
